US05102882
4-Morpholinocarbonylmethyl-1-(2-pyrrolidone-5-carbonyl)piperazine
Pyroglutamic acid (1.6 g), 2.1 g of 1-(morpholinocarbonylmethyl)piperazine, 2.47 g of DCC and 130 ml of acetonitrile were heated to reflux for 48 hours with stirring. The insoluble matter was removed by filtering the reaction mixture and the solvent was evaporated from the filtrate in vacuo. The residue was subjected to a silica gel column chromatography to give 3.0 g of the product. This was recrystallized from a mixture of ethyl acetate, isopropanol and n-hexane to give 2.6 g of desired product, m.p. 167°-169° C.

reactant | Pyroglutamic acid | 1.6 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | 1-(morpholinocarbonylmethyl)piperazine | 2.1 g | O1CCN(CC1)C(=O)CN1CCNCC1 | C10H19N3O2
reactant | DCC | 2.47 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | 4-Morpholinocarbonylmethyl-1-(2-pyrrolidone-5-carbonyl)piperazine | 3.0 g | O1CCN(CC1)C(=O)CN1CCN(CC1)C(=O)C1CCC(N1)=O | C15H24N4O4
